USRE029439
A mixture of benzamidoxime (270 parts) carbon disulphide (152 parts), 5-normal sodium methoxide (40 parts) and ethanol (200 parts) were heated at reflux for 16 hours. The solution was evaporated to dryness and the residue washed with 3-normal hydrochloric acid to give 5-mercapto-3-phenyl-1,2,4-thiadiazole (152 parts, 39% yield), melting point 147°-148° C.

reactant | benzamidoxime | C(C1=CC=CC=C1)(N)=NO | C7H8N2O
reactant | carbon disulphide | C(=S)=S | CS2
reactant | sodium methoxide | C[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-mercapto-3-phenyl-1,2,4-thiadiazole | 39% yield | SC1=NC(=NS1)C1=CC=CC=C1 | C8H6N2S2
